US06545102B1
Merrifield's peptide resin (Aldrich, 1.1 meq/g of Cl), 20.0 g was stirred in a solution of 100 mL of CH2Cl2 and 100 mL of dry DMF with 92.4 g of tri-n-octylphosphine under argon. The slurry was filtered and the beads washed with 3×200 mL of CH2Cl2. The product was dried in the air and then under vacuum to produce 21.2 g of trioctylphosphonium chloride substituted polymer.

reactant | Merrifield's peptide resin | C=CC1=CC=CC=C1.C=CC1=CC=C(C=C1)C=C.C1=CC=C(C=C1)CCl
reactant | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
reactant | tri-n-octylphosphine | 92.4 g | C(CCCCCCC)P(CCCCCCCC)CCCCCCCC | C24H51P
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | trioctylphosphonium chloride | 21.2 g | [Cl-].C(CCCCCCC)[PH+](CCCCCCCC)CCCCCCCC | InChI=1S/C24H51P.ClH/c1-4-7-10-13-16-19-22-25(23-20-17-14-11-8-5-2)24-21-18-15-12-9-6-3;/h4-24H2,1-3H3;1H
